CMOS Inverter Netlist

.lib {library_path} {use_case}

********************************
*  Component Declaration       *
********************************
xpmos {output_pin} {input_pin} {power_pin}  {power_pin}  {pmos_model} L={pmos_length}u W={pmos_width}u
xnmos {output_pin} {input_pin} {ground_pin} {ground_pin} {nmos_model} L={nmos_length}u W={nmos_width}u

********************************
*  Fenout capacitance          *
********************************
CLOAD {output_pin} {ground_pin} {fenout}f

********************************
*   Power Unit                 *
********************************
Vpower  {power_pin}  {ground_pin} {voltage_value}v
Vground {ground_pin} 0            0v


Vpulse {input_pin} {ground_pin} pulse (0 {voltage_value}v 0 {rise_time}p {fall_time}p {high_pulse_width}n {period_time}n )

.tran 1n 50*{period_time}n
.option post probe
.probe v(*)

.END
